US05102891
1-(Propyl-4-pyridinylamino)-1H-indol-5-yl methylcarbamate
To 2.5 g of 1-(propyl-4-pyridinylamino)-1H-indol-5-ol in 30 ml of tetrahydrofuran was added potassium carbonate (milled, 1.3 g) followed by methyl isocyanate (0.56 ml). The reaction was allowed to proceed for half an hour. The reaction mixture was then filtered and the filtrate concentrated to yield a solid (2.9 g) which was eluted with 5% methanol in dichloromethane on a silica gel column via HPLC. The desired fractions were concentrated to yield a solid (2.7 g) which was recrystallized from isopropyl ether to yield a solid 1.8 g, m.p. 158°-159° C.

reactant | 1-(propyl-4-pyridinylamino)-1H-indol-5-ol | 2.5 g | C(CC)N(N1C=CC2=CC(=CC=C12)O)C1=CC=NC=C1 | C16H17N3O
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isocyanate | 0.56 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(Propyl-4-pyridinylamino)-1H-indol-5-yl methylcarbamate | 2.9 g | CNC(OC=1C=C2C=CN(C2=CC1)N(C1=CC=NC=C1)CCC)=O | C18H20N4O2
